US04880838
Into a Parr bottle was charged 2-bromo-3,6-dimethyl-4-nitrophenol (13.6 grams, 55.3 mmol) prepared in Part A and ethyl acetate (50 milliliters). The reaction vessel was purged with nitrogen and 5% platinum on carbon (1.36 grams) was added immediately following the purge. Hydrogenation was carried out on a rocking Parr hydrogenator for 1.5 hours at 40-50 psi hydrogen and room temperature. The reaction mixture was filtered through celite and concentrated under reduced pressure to give 4-amino-2-bromo-3,6-dimethylphenol as a brown solid in quantitative yield. H'-NMR (CDCl3 -DMSO-d6), 6.40 (S, 1H), 2.17 (brS, 6H).

reactant | 2-bromo-3,6-dimethyl-4-nitrophenol | 55.3 mmol, 13.6 grams | BrC1=C(C(=CC(=C1C)[N+](=O)[O-])C)O | C8H8BrNO3
solvent | ethyl acetate | 50 milliliters | C(C)(=O)OCC | C4H8O2
product | 4-amino-2-bromo-3,6-dimethylphenol | quantitative yield | NC1=C(C(=C(C(=C1)C)O)Br)C | C8H10BrNO
